US05472983
Preparation of N-tert-butyl-N-methyl 4-nitrobenzamide (CPI1052)
The preparation of Example 1 was repeated with the changes that the starting reactants were N-tert-butyl-N-methyl amine (3.36 g, 0.0386 mole) and 4-nitrobenzoyl chloride (3.58 g, 0.0193 mole), the reaction was carried out in benzene, the product was crystallized from cold ethanol, and the desired product was 3.31 g of crystals (28% yield), mp 119°-121° C. Proton nuclear magnetic resonance (89.55 MHz) showed absorptions at 8.252 ppm (d, 8.8 Hz, 2H; 3,5-aryl H); 7.569 ppm (d, 8.8 Hz, 2H; 2,6-aryl H); 2.838 ppm (s, 3H; N-CH3); 1.526 ppm (s, 9H; tert-butyl H) .

reactant | N-tert-butyl-N-methyl amine | 0.0386 mole, 3.36 g | C(C)(C)(C)NC | C5H13N
reactant | 4-nitrobenzoyl chloride | 0.0193 mole, 3.58 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-tert-butyl-N-methyl 4-nitrobenzamide | 3.31 g, 28% yield | C(C)(C)(C)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C12H16N2O3
